* source TESTS
Q_Q1         N408227 N408221 N408147 BC547B 
R_R1         0 N408147  60 TC=0,0 
R_R2         N408231 N408221  220 TC=0,0 
V_V2         N408227 0 12Vdc
V_V1         N408231 0 5Vdc
